US04849414
L-lysine, monohydrochloride (130 g.) is dissolved in 2N lithium hydroxide (360 ml.) solution in a 2-liter, 3-necked, round bottom flask, equipped with an overhead stirrer, addition funnel and thermometer. Benzaldehyde (76.4 ml.) is added dropwise to this vigorously stirring solution at a temperature of about 5°. The reaction mixture turns cloudy at first and then becomes a thick mass of white precipitate. The rest of the benzaldehyde is added along with toluene (300 ml.) to improve the difficult stirring. The reaction mixture is stirred at about 5° for three hours. The mixture is filtered in a coarse sintered glass funnel. The solid is washed with ice cold water (50 ml.), ice cold ethanol (2×115 ml.), and then extensively with anhydrous ether. The product is dried in vacuo over 16 hours to give (S)-2-amino-6-[(benzylidene)amino]hexanoic acid as a white powder; m.p. 196°-200°.

reactant | L-lysine, monohydrochloride | 130 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | Benzaldehyde | 76.4 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
solvent | lithium hydroxide | 2N, 360 ml | [OH-].[Li+]
product | (S)-2-amino-6-[(benzylidene)amino]hexanoic acid | N[C@H](C(=O)O)CCCCN=CC1=CC=CC=C1 | C13H18N2O2
